US07105533B2
A solution of 2-(3-methoxy-4-pyridin-2-ylphenyl)imidazo[1,2-a]pyridine (40 mg, 0.13 mmol) in methanol (2 mL) was treated with Pd/C (8 mg of 10%) and stirred vigorously under an atmosphere of hydrogen gas for 3 days. The reaction mixture was filtered through a pad of celite, and the filtrate was concentrated to afford the desired 2-(3-methoxy-4-pyridin-2-ylphenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine as a yellow solid. 1H NMR (CD3OD, 300 MHz) δ 8.88 (d, 1H), 8.69 (m, 1H), 8.35 (d, 1H), 8.09 (m, 2H), 7.86 (m, 1H), 7.70 (s, 1H), 7.60 (d, 1H), 4.28 (br s, 2H), 4.09 (s, 3H), 3.17 (br s, 2H), 2.15 (br s, 4H) ppm. MS (ESI) 306 (M)+.

reactant | 2-(3-methoxy-4-pyridin-2-ylphenyl)imidazo[1,2-a]pyridine | 0.13 mmol, 40 mg | COC=1C=C(C=CC1C1=NC=CC=C1)C=1N=C2N(C=CC=C2)C1 | C19H15N3O
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd/C | 8 mg | [Pd] | Pd
product | 2-(3-methoxy-4-pyridin-2-ylphenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine | COC=1C=C(C=CC1C1=NC=CC=C1)C=1N=C2N(CCCC2)C1 | C19H19N3O
